US07101891B2
3-(Trityl-amino)-piperidin-2-one
Add triphenylmethyl chloride (35.11 g, 126.0 mmol) to a suspension of 3-amino-piperidin-2-one dihydrochloride (21.42 g, 114.5 mmol) in tetrahydrofuran (250 mL), follow by dropwise addition of triethylamine (55.9 mL, 400.8 mmol). Stir the reaction at room temperature under nitrogen overnight. Filter the mixture, wash with tetrahydrofuran, concentrate the filtrate to a yellow oil, and partition the material between 20% isopropanol/chloroform and water. Wash the organic layer with saturated aqueous sodium bicarbonate solution, brine, dry over magnesium sulfate and concentrate. Purify by flash chromatography on silica gel (eluting with 0–1.25% methanol/chloroform) which gives 18.50 g of the title compound as a white foam, 45% yield. 1H NMR: consistent with structure. MS (ion spray) 113 (M+−1).

reactant | triphenylmethyl chloride | 126.0 mmol, 35.11 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 3-amino-piperidin-2-one dihydrochloride | 114.5 mmol, 21.42 g | Cl.Cl.NC1C(NCCC1)=O
reactant | triethylamine | 400.8 mmol, 55.9 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 3-(Trityl-amino)-piperidin-2-one | 18.50 g, 45% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C(NCCC1)=O | C24H24N2O
